US06361887B1
Synthesis of di-(2-(6-methoxynaphthyl)anthracene (Compound 8)
9,10-Dibromoanthracene (23.63 g, 70.3 mmol), 300 mL of THF and a catalytic amount of dichlorobis(triphenylphosphine)palladium (II) were all placed under nitrogen in a round bottomed flask. The Grignard reagent prepared above was then added via a double-end needle transfer while still warm. After the addition, the reaction mixture was allowed to reflux overnight. After cooling to room temperature, the precipitated solid was collected by vacuum filtration and washed with ether, THF, and water. The collected solid was placed into a beaker and HCl (6M) was added followed by ethanol. This mixture is stirred for 60 minutes and the solid is again collected by vacuum filtration. The product was washed until the washings are neutral. After drying, the solid is refluxed gently in CH2Cl2 for 60 minutes. The pure product was filtered and dried to give 85.2 g solid (82% yield) (AA8790-34). 1H NMR (CDCl3) δ(ppm): 3.97 (s, 6H), 7.29 (dd, J1=8.9 Hz, J2=2.4 Hz, 2H), 7.40 (d, J=6.9 Hz 2H), 7.41 (d, J=6.9 Hz, 2H), 7.53 (d, J=2.2 Hz, 2H), 7.57 (d, J=8.0 Hz, 2H), 7.64 (d, J=6.8 Hz, 2H), 7.65 (d, J=6.8 Hz, 2H), 7.94 (d, J=9 Hz, 2H), 7.97 (s, 2H), 8.10 (d, J=8.4 Hz, 2H);. FD-MS: m/z 490 (M+).

reactant | 9,10-Dibromoanthracene | 70.3 mmol, 23.63 g | BrC=1C2=CC=CC=C2C(=C2C=CC=CC12)Br | C14H8Br2
reactant | THF | 300 mL | C1CCOC1 | C4H8O
catalyst | dichlorobis(triphenylphosphine)palladium | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 2-(6-methoxynaphthyl)anthracene | 85.2 g, 82% yield | COC=1C=C2C=CC=C(C2=CC1)C1=CC2=CC3=CC=CC=C3C=C2C=C1 | C25H18O
